US09227923B2
2-Ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylaniline (1.7 g) and pyridine (0.88 g) were dissolved in tetrahydrofuran (30 ml). To the solution, the crude product of 4-cyano-3-methylbenzoyl chloride (1.0 g) and 4-dimethylaminopyridine (0.03 g) were added and the mixture was stirred under heating at 50° C. for 2 hours. After adjusting to room temperature, the reaction solution was diluted with water and extracted twice with ethyl acetate. The organic phases were combined, washed with 2N hydrochloric acid and dried over magnesium sulfate. After filtering off the drying agent, the solvent was distilled off under reduced pressure to obtain a crude product. The crude product was washed with a mixed solvent of hexane and ethyl acetate (ethyl acetate 10%) to obtain 4-cyano-N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]-3-methylbenzamide (2.1 g, yield 83%).

reactant | 2-Ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylaniline | 1.7 g | C(C)C1=C(N)C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C | C12H12F7N
reactant | pyridine | 0.88 g | N1=CC=CC=C1 | C5H5N
reactant | 4-cyano-3-methylbenzoyl chloride | 1.0 g | C(#N)C1=C(C=C(C(=O)Cl)C=C1)C | C9H6ClNO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.03 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | 4-cyano-N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]-3-methylbenzamide | 2.1 g, yield 83% | C(#N)C1=C(C=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)CC)C=C1)C | C21H17F7N2O
